US05087640
N-t-butyl-N'-cyano-N"-(3,5-difluorophenyl)guanidine
To a solution of 1.5 g of N-t-butyl-N'-(3,5-difluorophenyl)thiourea produced in Example A-8 in 27 ml of THF were added 0.46 g of cyanamide, 2.2 g of DCC and 0.14 ml of diisopropylethylamine. The mixture was refluxed for 24 hours and evaporated in vacuo. The residue was mixed with 100 ml of benzene and the resulting crystals were filtered off. The filtrate was concentrated in vacuo. The residue was purified by silica gel column chromatography using a 9:1 mixture of benzene-ethyl acetate as a solvent to give 0.8 g of crude product. Recrystallization from benzene-cyclohexane mixture gave 0.5 g of the title compound as colorless needles melting at 170.0°-172.0° C.

reactant | N-t-butyl-N'-(3,5-difluorophenyl)thiourea | 1.5 g | C(C)(C)(C)NC(=S)NC1=CC(=CC(=C1)F)F | C11H14F2N2S
reactant | cyanamide | 0.46 g | N#CN | CH2N2
reactant | DCC | 2.2 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | diisopropylethylamine | 0.14 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 27 ml | C1CCOC1 | C4H8O
product | N-t-butyl-N'-cyano-N"-(3,5-difluorophenyl)guanidine | 0.5 g | C(C)(C)(C)NC(=NC1=CC(=CC(=C1)F)F)NC#N | C12H14F2N4
